US09079902B2
A round-bottom flask was charged with 2-bromo-4-(trifluoromethyl)aniline (4.115 g, 17.14 mmol), 1-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (4.64 g, 22.29 mmol), potassium phosphate (10.92 g, 51.4 mmol), and Pd(AmPhos)2Cl2 (0.607 g, 0.857 mmol). Dioxane (30 mL) and water (10 mL) were added to give a thick suspension. The flask was fitted with a reflux condenser and placed in a 90° C. oil bath for 4 h. The mixture was removed from the heat, then diluted with water and extracted with EtOAc (3×). The combined organic extracts were dried over sodium sulfate, filtered and concentrated. The residue was partially purified twice by chromatography on silica gel, first with 25 to 75% EtOAc/Heptane, then with 20 to 70% EtOAc/Heptane. The partially purified material thus obtained was dissolved in methanol and loaded onto a 10 g SCX-2 ion exchange column. The column was eluted with methanol, then with 2N ammonia in methanol. The basic fractions were combined and concentrated to give 2-(1-methyl-1H-pyrazol-5-yl)-4-(trifluoromethyl)aniline (0.5526 g, 2.291 mmol, 13.36% yield) as a tan solid. 1H NMR (400 MHz, DMSO-d6) δ=7.52 (d, J=1.9 Hz, 1 H), 7.43 (ddd, J=0.5, 2.3, 8.6 Hz, 1 H), 7.26 (d, J=1.9 Hz, 1 H), 6.88 (d, J=8.5 Hz, 1 H), 6.32 (d, J=1.9 Hz, 1 H), 5.62 (s, 2 H), 3.64 (s, 3 H). m/z (ESI) 242.2 (M+H)+.

reactant | 2-bromo-4-(trifluoromethyl)aniline | 17.14 mmol, 4.115 g | BrC1=C(N)C=CC(=C1)C(F)(F)F | C7H5BrF3N
reactant | 1-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 22.29 mmol, 4.64 g | CN1N=CC=C1B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
reactant | potassium phosphate | 51.4 mmol, 10.92 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | Dioxane | 30 mL | O1CCOCC1 | C4H8O2
solvent | methanol | CO | CH4O
solvent | water | 10 mL | O | H2O
product | 2-(1-methyl-1H-pyrazol-5-yl)-4-(trifluoromethyl)aniline | 2.291 mmol, 0.5526 g, 13.36% yield | CN1N=CC=C1C1=C(N)C=CC(=C1)C(F)(F)F | C11H10F3N3
